US05278148
0.62 g (1.28 mmol) of t-butyl [(1S,2S)-2-(t-butyldimethylsiloxy)-1-(cyclohexylmethyl)-3-(2-oxo-1-pyrrolidinyl)propyl]carbamate was dissolved in 9 ml of acetonitrile in a polypropylene reaction vessel and treated at room temperature with 1.2 ml of 40% aqueous hydrofluoric acid. The reaction mixture was subsequently stirred at room temperature for 3 hours, thereafter poured into 2N sodium bicarbonate solution and extracted with methylene chloride. The methylene chloride extracts were dried over magnesium sulfate and evaporated under reduced pressure, whereby there were obtained 434 mg of t-butyl [(1S,2S)-1-(cyclohexylmethyl)-2-hydroxy-3-(2-oxo-1-pyrrolidinyl)propyl]carbamate as an oil which was used directly in the next step.

reactant | t-butyl [(1S,2S)-2-(t-butyldimethylsiloxy)-1-(cyclohexylmethyl)-3-(2-oxo-1-pyrrolidinyl)propyl]carbamate | 1.28 mmol, 0.62 g | O([Si](C)(C)C(C)(C)C)[C@H]([C@H](CC1CCCCC1)NC(OC(C)(C)C)=O)CN1C(CCC1)=O | C25H48N2O4Si
reactant | hydrofluoric acid | 1.2 ml | F | FH
reactant | sodium bicarbonate | 2N | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 9 ml | C(C)#N | C2H3N
solvent | polypropylene | C(C(C)[*:2])[*:1]
product | t-butyl [(1S,2S)-1-(cyclohexylmethyl)-2-hydroxy-3-(2-oxo-1-pyrrolidinyl)propyl]carbamate | 434 mg | C1(CCCCC1)C[C@@H]([C@H](CN1C(CCC1)=O)O)NC(OC(C)(C)C)=O | C19H34N2O4
